US04423070
A solution of 2-bromo-3',4'-bis(benzyloxy)acetophenone (5.24 g.) and N-(2-amino-2-methylpropyl)-2-phenylacetamide (5.5 g.) in dioxan (25 ml.) was stirred for 2 hours at room temperature. The reaction mixture was diluted with dry ether (200 ml.) and the precipitate of N-(2-amino-2-methylpropyl)-2-phenylacetamide hydrobromide was separated by filtration. The ethereal filtrate was washed with water (3×50 ml.), brine (100 ml.) dried (MgSO4) and then a fresh solution of saturated ethereal hydrogen bromide was added until the solution was just acid. After 18 hours at 0°-5° C. the precipitate which had formed was collected to give 2-[1,1-dimethyl-2-(2-phenylacetamido)ethyl]amino-3',4'-bis(benzyloxy)acetophenone hydrobromide as a solid (6.85 g.) m.p. 155°-160° C. This hydrobromide (5.0 g.) was dissolved in absolute ethanol (300 ml.) and the solution was hydrogenated at atmospheric pressure using 10% w/w palladium-on-carbon (3.0 g.) as catalyst. When the uptake of hydrogen was complete (about 3 hours), the catalyst was removed by filtration and the ethanolic filtrate was evaporated at a temperature below 30° C. to give 2-[1,1-dimethyl-2-(2-phenylacetamido)ethyl]amino-3',4'-dihydroxyacetophenone hydrobromide as a foam (3.7 g.) which was used directly for further acylation.

reactant | 2-bromo-3',4'-bis(benzyloxy)acetophenone | 5.24 g | BrCC(=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C22H19BrO3
reactant | N-(2-amino-2-methylpropyl)-2-phenylacetamide | 5.5 g | NC(CNC(CC1=CC=CC=C1)=O)(C)C | C12H18N2O
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-[1,1-dimethyl-2-(2-phenylacetamido)ethyl]amino-3',4'-bis(benzyloxy)acetophenone hydrobromide | Br.CC(CNC(CC1=CC=CC=C1)=O)(C)NCC(=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | InChI=1S/C34H36N2O4.BrH/c1-34(2,25-35-33(38)20-26-12-6-3-7-13-26)36-22-30(37)29-18-19-31(39-23-27-14-8-4-9-15-27)32(21-29)40-24-28-16-10-5-11-17-28;/h3-19,21,36H,20,22-25H2,1-2H3,(H,35,38);1H
